US08580824B2
A solution of 2,6-dimethylisonicotinic acid tert.-butyl ester (2.37 g, 11.44 mmol) in 5 N HCl in isopropanol (40 mL) is stirred at 80° C. for 3 h. The solvent is evaporated and the crude product is purified by MPLC on silica gel (heptane:EA gradient) to give 2,6-dimethylisonicotinic acid hydrochloride as a beige resin; 1H NMR (CD3OD): δ 8.16 (s, 2H), 2.84 (s, 6H).

reactant | 2,6-dimethylisonicotinic acid tert.-butyl ester | 11.44 mmol, 2.37 g | C(C)(C)(C)OC(C1=CC(=NC(=C1)C)C)=O | C12H17NO2
reactant | HCl | 5 N | Cl | ClH
solvent | isopropanol | 40 mL | C(C)(C)O | C3H8O
product | 2,6-dimethylisonicotinic acid hydrochloride | Cl.CC=1C=C(C(=O)O)C=C(N1)C | InChI=1S/C8H9NO2.ClH/c1-5-3-7(8(10)11)4-6(2)9-5;/h3-4H,1-2H3,(H,10,11);1H
